US06897231B2
A. N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl](4methoxyphenyl)carboxamide
To a solution of 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.200 g, 0.33 mmol) in pyridine (2 mL) was added 4-methoxybenzoyl chloride (0.068 g, 0.40 mmol). The reaction was stirred at room temperature for 15 h. Water (10 mL) was added and the solid collected by suction filtration. The solid was dried in a vacuum oven for 3 h. The residue was dissolved in 4 N hydrochloric acid in 1,4-dioxane (10 mL) and the mixture was stirred at room temperature for 2 h. After neutralization with aqueous sodium bicarbonate, the reaction mixture was extracted with ethyl acetate. The combined organic fractions were dried over anhydrous sodium sulfate, filtered and evaporated. Addition of dichloromethane (10 mL) to the residue gave the title compound (0.090 g, 66% yield) which was isolated by filtration: 1H NMR (DMSO-d6) δ 10.33 (s, 1H), 8.73 (s, 1H), 8.44 (s, 1H), 8.30 (s, 1H), 8.11 (d, 1H), 8.03 (d, 2H), 7.93 (d, 1H), 7.10 (m, 2H), 7.53 (t, 1H), 7.09 (d, 2H), 3.85 (s, 3H); ES-MS (m/z) 411 [M+1]+.

reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.33 mmol, 0.200 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
reactant | 4-methoxybenzoyl chloride | 0.40 mmol, 0.068 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | Water | 10 mL | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-[3-(5-(1H-1,2,4-Triazol-3-yl)(1H-indazol-3-yl))phenyl](4methoxyphenyl)carboxamide | 0.090 g, 66% yield | N1N=C(N=C1)C=1C=C2C(=NNC2=CC1)C=1C=C(C=CC1)NC(=O)C1=CC=C(C=C1)OC | C23H18N6O2
